US05889050
(R,R)-N-Acetyl-N'-pentanoyl-3,3'-dithiobis(2-aminopropionic acid)
This material was prepared as in Example 18, starting from N-acetylcysteine and N-pentanoylcysteine.

reactant | N-acetylcysteine | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | N-pentanoylcysteine | C(CCCC)(=O)N[C@@H](CS)C(=O)O | C8H15NO3S
product | (R,R)-N-Acetyl-N'-pentanoyl-3,3'-dithiobis(2-aminopropionic acid) | C(C)(=O)N[C@H](C(=O)O)CSSC[C@@H](C(=O)O)NC(CCCC)=O | C13H22N2O6S2
